US06825212B2
Preparation of N,N-Dimethyl-N-{2-[3-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-1-yl]ethyl}amine dihydrochloride
A solution of 3-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (400 mg, 1.55 mmol) in dry DMF is chilled to 0° C., treated with sodium hydride (60% in oil, 97 mg, 2.43 mmol), stirred for 3 h at 20° C., cooled to −20° C., treated with 2-(dimethylamino)-ethyl chloride hydrochloride (336 mg, 2.33 mmol), stirred at 60° C. for 16 h, cooled to room temperature, quenched with water and extracted with ethyl acetate. The organic extracts are combined, washed with brine, dried over MgSO4 and concentrated in vacuo to afford the free amine of the title compound as a yellowish gum. The gum is dissolved in ethanol, treated with 1N aqueous HCl and concentrated in vacuo. Crystallization of the resultant residue from ethanol/ether affords the title compound as a light tan solid, 111 mg, mp 214-217° C., characterized by mass spectral and HNMR analyses.

reactant | 3-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 1.55 mmol, 400 mg | C1(=CC=CC=C1)S(=O)(=O)C1=CNC2=NC=CC=C21 | C13H10N2O2S
reactant | sodium hydride | 2.43 mmol, 97 mg | [H-].[Na+]
reactant | 2-(dimethylamino)-ethyl chloride hydrochloride | 2.33 mmol, 336 mg | Cl.CN(CCCl)C
solvent | DMF | CN(C)C=O | C3H7NO
product | N,N-Dimethyl-N-{2-[3-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-1-yl]ethyl}amine dihydrochloride | Cl.Cl.CN(CCN1C=C(C=2C1=NC=CC2)S(=O)(=O)C2=CC=CC=C2)C | InChI=1S/C17H19N3O2S.2ClH/c1-19(2)11-12-20-13-16(15-9-6-10-18-17(15)20)23(21,22)14-7-4-3-5-8-14;;/h3-10,13H,11-12H2,1-2H3;2*1H
